US09388189B2
N-(3-Hydroxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methanesulfonamide
N-(3-Bromo-5-hydroxyphenyl)methanesulfonamide (0.87 g, 3.27 mmol, prepared as described at C. Cannizzaro et al. U.S. Pat. No. 7,417,055 B2 20080826) was treated with bis(pinacolato)diboron (1.25 g, 4.90 mmol), potassium acetate (0.96 g, 9.81 mmol) and bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (0.27 g, 0.33 mmol) according to the method described in Preparation 16. The crude was purified using SP1® Purification System (0%-100%, hexane-ethyl acetate) to give 390 mg (31% yield) to the title compound as a solid.

reactant | N-(3-Bromo-5-hydroxyphenyl)methanesulfonamide | BrC=1C=C(C=C(C1)O)NS(=O)(=O)C | C7H8BrNO3S
reactant | bis(pinacolato)diboron | 4.90 mmol, 1.25 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 9.81 mmol, 0.96 g | C(C)(=O)[O-].[K+]
product | N-(3-Hydroxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methanesulfonamide | 31% yield | OC=1C=C(C=C(C1)B1OC(C(O1)(C)C)(C)C)NS(=O)(=O)C | C13H20BNO5S
